US06451821B1
The process is performed as in Example 1, starting with 11.1 g of N-(tert-butyl)-N′-[(1S)-1-cyclohexylmethyl-2-hydroxyethyl]thiourea in 110 cm3 of aqueous 6N hydrochloric acid maintained at a temperature in the region of 100° C. for 2 hours. By means of an identical work-up, 3.6 g of (−)-(4S)-4-cyclohexylmethyl-4,5-dihydro-1,3-thiazol-2-ylamine are obtained in the form of a white solid melting at 169° C. (αD20=−33.9±0.8 at a concentration of 0.5% in methanol).

reactant | N-(tert-butyl)-N′-[(1S)-1-cyclohexylmethyl-2-hydroxyethyl]thiourea | 11.1 g | C(C)(C)(C)NC(=S)N[C@H](CO)CC1CCCCC1 | C14H28N2OS
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | CO | CH4O
product | (−)-(4S)-4-cyclohexylmethyl-4,5-dihydro-1,3-thiazol-2-ylamine | 3.6 g | C1(CCCCC1)C[C@@H]1N=C(SC1)N | C10H18N2S
